US04886835
The procedure is as in Example 2 for the preparation of ethyl (phenylthio)acetate starting with ethyl bromoacetate (16.7 g), a 2M ethanolic solution of sodium ethylate (50 cc) and 4-chlorothiophenol (14.5 g). Ethyl (4-chlorophenylthio)acetate (20.7 g) is thereby obtained, and is used in the crude state in the subsequent phases.

reactant | ethyl (phenylthio)acetate | C1(=CC=CC=C1)SCC(=O)OCC | C10H12O2S
reactant | ethyl bromoacetate | 16.7 g | BrCC(=O)OCC | C4H7BrO2
reactant | 4-chlorothiophenol | 14.5 g | ClC1=CC=C(C=C1)S | C6H5ClS
solvent | sodium ethylate | 50 cc | CC[O-].[Na+]
product | Ethyl (4-chlorophenylthio)acetate | 20.7 g | ClC1=CC=C(C=C1)SCC(=O)OCC | C10H11ClO2S
